US06121308
2-[2-(4-Amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzoxazole
Prepared analogously to Example 3 from 2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzoxazole and sodium hydroxide solution.

reactant | 2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzoxazole | C(N)(=N)C1=CC=C(C=C1)CCC=1OC2=C(N1)C=C(C=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C1C=CC=NC21 | C29H27N5O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-[2-(4-Amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzoxazole | C(N)(=N)C1=CC=C(C=C1)CCC=1OC2=C(N1)C=C(C=C2)N(CC(=O)O)S(=O)(=O)C=2C=CC=C1C=CC=NC21 | C27H23N5O5S
